US05767131
To a stirred solution of 4-(4-phenylpiperidin-1-yl)butyronitrile (3.81 g, 16.7 mmol, 1.0 equiv) in anhydrous THF (20 mL) under argon was added a solution of BH3 in THF (1.0M, 58.5 mL, 58 mmol, 3.5 equiv) at room temperature. The mixture was refluxed for 4.5 hours and then cooled to room temperature. Aqueous HCl (6N, 100 mL) was added and stirring was continued for 2 hours at 55°-60° C. The mixture was basified to pH 9 by addition of 6N aq. NaOH and extracted with CH2Cl2 (3×100 mL). The combined organic solutions were dried over MgSO4 and concentrated. The residue was dissolved in CH2 Cl2 (20 mL) and treated with HCl in ether (1.0M, 35 mL). The solvents were removed, ether (200 mL) was added, the mixture was filtered, and the filter cake was washed with ether. Water (50 mL) was added to the resulting white solid, the pH was adjusted to 10-11 with 1N NaOH, and the aqueous phase was extracted with CH2Cl2 (3×100 mL). Drying over MgSO4 followed by removal of solvents gave 3.54 g of 1-(4-aminobutyl)-4-phenylpiperidine (light yellow solid, 91%) which was characterized spectroscopically.

reactant | 4-(4-phenylpiperidin-1-yl)butyronitrile | 16.7 mmol, 3.81 g, 1.0 equiv | C1(=CC=CC=C1)C1CCN(CC1)CCCC#N | C15H20N2
reactant | HCl | 6N, 100 mL | Cl | ClH
reactant | NaOH | 6N | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 58 mmol, 1.0M, 58.5 mL, 3.5 equiv | C1CCOC1 | C4H8O
product | 1-(4-aminobutyl)-4-phenylpiperidine | 3.54 g, 91% | NCCCCN1CCC(CC1)C1=CC=CC=C1 | C15H24N2
